US05002856
D. Preparation of 1-Amino-9-Methyl Carbazole
3,6-Dibromo-9-methyl-1-nitrocarbazole (10 g) was dissolved in 300 ml of methanol. To the solution was added 50 g of Rexyn™ (OH-) form) and, under an atmosphere of carbon dioxide, 2 g of 5% Pd/C. The vessel was charged with 44.5 psi of H2. During the course of the reaction the hydrogen pressure dropped to 32.8 psi (100% H2 uptake). The crude reaction mixture was filtered and the clear solution was evaporated with a rotary evaporator using a vacuum pump and a water bath at 20° C. to give a white solid, m.p. 90°-92° C. Yield 2.77 g (54.3%). The product decomposed readily in air to a red solid.

reactant | 3,6-Dibromo-9-methyl-1-nitrocarbazole | 10 g | BrC=1C=C(C=2N(C3=CC=C(C=C3C2C1)Br)C)[N+](=O)[O-] | C13H8Br2N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 1-Amino-9-Methyl Carbazole | NC1=CC=CC=2C3=CC=CC=C3N(C12)C | C13H12N2
